US07728131B2
1-(2-methyl-5-nitrophenyl)guanidine
To 135 g of 1-(2-methyl-5-nitrophenyl)guanidine nitrate (Japanese Unexamined Patent Publication (Kokai) No. 6-87834), 21 g of sodium hydroxide in 1.0 L of a cold aqueous solution was directly added, followed by stirring at room temperature for 10 minutes. The crystals were filtered, sufficiently washed with water and then forced-air dried at 60° C. to obtain 102 g of the objective compound as pale yellow crystals.

reactant | 1-(2-methyl-5-nitrophenyl)guanidine nitrate | 135 g | [N+](=O)(O)[O-].CC1=C(C=C(C=C1)[N+](=O)[O-])NC(=N)N
reactant | sodium hydroxide | 21 g | [OH-].[Na+]
product | 1-(2-methyl-5-nitrophenyl)guanidine | 102 g | CC1=C(C=C(C=C1)[N+](=O)[O-])NC(=N)N | C8H10N4O2
